US04168964
α-Methyl-2-phenyl-4-imidazolemethanol
Methyl magnesium bromide (15.3 ml., 2.5 molar in ether) is added dropwise to a solution of 2-phenyl-4-imidazolecarboxaldehyde (3.0 gm. 0.017 mole) in dry tetrahydrofuran (45 ml.; dried over a molecular sieve) while the temperature of the reaction mixture is maintained with cooling at 25° C. The mixture is stirred for 2 hours, and then decomposed by adding a large volume of water dropwise. The mixture is extracted with ether (3×75 ml.), the ethereal extract is partially evaporated to yield a white precipitate, the crystalline alcohol, m.p. 197°-198° C.

reactant | Methyl magnesium bromide | 2.5 molar, 15.3 ml | C[Mg]Br
reactant | 2-phenyl-4-imidazolecarboxaldehyde | 0.017 mole, 3.0 gm | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-Methyl-2-phenyl-4-imidazolemethanol | CC(O)C=1N=C(NC1)C1=CC=CC=C1 | C11H12N2O
